US05668136
9.02 g of potassium carbonate and a catalytic amount of sodium iodide were added to a dimethylformamide solution of 5 g of 3-methyl-2-nitrophenol and 7.2 g of 4-phenyl-1-(3-chloropropyl)-1H-imidazole. The obtained mixture was heated at 100° C. for 2 hours to conduct a reaction. After the completion of the reaction, the reaction mixture was extracted with ethyl acetate. The ethyl acetate layer was dried over magnesium sulfate and distilled to remove the solvent. The obtained oily substance .was purified by silica gel chromatography to give 9.91 g of 2-nitro-3-[3-(4-phenyl-1H-imidazol-1-yl)propoxy]toluene. This product was catalytically reduced and condensed with butyl isocyanate according to a conventional process to give 11.2 g of the title compound having a melting point of 102° to 110° C.

reactant | potassium carbonate | 9.02 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | [I-].[Na+]
reactant | 3-methyl-2-nitrophenol | 5 g | CC=1C(=C(C=CC1)O)[N+](=O)[O-] | C7H7NO3
reactant | 4-phenyl-1-(3-chloropropyl)-1H-imidazole | 7.2 g | C1(=CC=CC=C1)C=1N=CN(C1)CCCCl | C12H13ClN2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-nitro-3-[3-(4-phenyl-1H-imidazol-1-yl)propoxy]toluene | 9.91 g | [N+](=O)([O-])C1=C(C=CC=C1OCCCN1C=NC(=C1)C1=CC=CC=C1)C | C19H19N3O3
